### PR TITLE
[Merged by Bors] - feat(RingTheory): generalise perfection to monoids

### PR DESCRIPTION
**Pull request by kckennylau**
1. We generalise `PerfectRing` to monoids (without changing the name).
2. We move `Submonoid.perfection` and `Ring.Perfection` to the already existing `Perfection` namespace, which solves the problem that `Ring.Perfection` and its lemmas `Perfection.xxx` are in different namespaces. Also, the monoid perfection and ring perfection have the same underlying set, so this unify the two approaches.
3. `Perfection.lift` is now generalised to monoids: `liftMonoidHom : (M →* N) ≃ (M →* Perfection N p)` where `M` is a perfect monoid.

---

This is in preparation for a future PR following #30989.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/FieldTheory/Perfect.lean [hunk 1]
```diff
@@ -39,12 +39,51 @@ open Function Polynomial
 
 NB: This is not related to the concept with the same name introduced by Bass (related to projective
 covers of modules). -/
-class PerfectRing (R : Type*) (p : ℕ) [CommSemiring R] [ExpChar R p] : Prop where
+class PerfectRing (R : Type*) (p : ℕ) [Pow R ℕ] : Prop where
   /-- A ring is perfect if the Frobenius map is bijective. -/
-  bijective_frobenius : Bijective <| frobenius R p
+  bijective_frobenius : Bijective fun x : R ↦ x ^ p
```
Comment (pechersky) [inline Mathlib/FieldTheory/Perfect.lean:48]: Should `frobenius` be generalized to `Pow R Nat` also?

File: Mathlib/RingTheory/Perfection.lean [hunk 2]
```diff
@@ -28,140 +28,216 @@ universe u₁ u₂ u₃ u₄
...
   map_mul' _ _ := rfl
-  map_zero' := rfl
-  map_add' _ _ := rfl
 
-variable {R p}
+/-- The `p`-th root of an element of the perfection. -/
+def pthRootMonoidHom : Perfection M p →* Perfection M p where
+  toFun f := ⟨fun n => coeffMonoidHom M p (n + 1) f, fun _ => f.2 _⟩
+  map_one' := rfl
+  map_mul' _ _ := rfl
```
Comment (pechersky) [inline Mathlib/RingTheory/Perfection.lean:73]: do we have any lemmas about the "spec" of pthRoot in fully applied (unbundled) form like `(pthRoot x) ^ p`, instead of composition?

File: Mathlib/RingTheory/Perfection.lean [hunk 3]
```diff
@@ -28,140 +28,216 @@ universe u₁ u₂ u₃ u₄
...
+
+variable {M p}
 
 @[ext]
-theorem ext {f g : Ring.Perfection R p} (h : ∀ n, coeff R p n f = coeff R p n g) : f = g :=
+theorem ext' {f g : Perfection M p} (h : ∀ n, coeffMonoidHom M p n f = coeffMonoidHom M p n g) :
```
Comment (pechersky) [inline Mathlib/RingTheory/Perfection.lean]: `extMonoid` perhaps? Or docstring why prime and explain

File: Mathlib/RingTheory/Perfection.lean [hunk 4]
```diff
@@ -28,140 +28,216 @@ universe u₁ u₂ u₃ u₄
...
+
+theorem coeffMonoidHom_iterate_powMonoidHom' (f : Perfection M p) (n m : ℕ) (hmn : m ≤ n) :
+    coeffMonoidHom M p n ((powMonoidHom p)^[m] f) = coeffMonoidHom M p (n - m) f := by
+  rw [← coeffMonoidHom_iterate_powMonoidHom f (n - m) m, Nat.sub_add_cancel hmn]
+
+theorem pthRootMonoidHom_powMonoidHom : (pthRootMonoidHom M p).comp (powMonoidHom p) = .id _ := by
+  ext; simp [coeffMonoidHom_pthRootMonoidHom, coeffMonoidHom_pow_p']
+
+theorem powMonoidHom_pthRootMonoidHom : (powMonoidHom p).comp (pthRootMonoidHom M p) = .id _ :=
+  pthRootMonoidHom_powMonoidHom
```
Comment (pechersky) [inline Mathlib/RingTheory/Perfection.lean]: Can you give these as `LeftInverse` and `RightInverse` (unbundled)? And then you'd use that in the `bijective` proof below?

File: Mathlib/RingTheory/Perfection.lean [hunk 5]
```diff
@@ -28,140 +28,216 @@ universe u₁ u₂ u₃ u₄
...
+  zero_mem' _ := zero_pow hp.1.ne_zero
+  add_mem' hf hg n := (frobenius_add R p _ _).trans congr($(hf n) + $(hg n))
+
+@[deprecated (since := "2025-10-28")]
+alias _root_.Ring.perfectionSubsemiring := subsemiring
+
+variable (R : Type*) [CommSemiring R] (p : ℕ) [hp : Fact p.Prime] [CharP R p]
+
+instance commSemiring : CommSemiring (Perfection R p) :=
+  (subsemiring R p).toCommSemiring
```
Comment (pechersky) [inline Mathlib/RingTheory/Perfection.lean]: wouldn't this be `inferInstance`?

File: Mathlib/RingTheory/Perfection.lean [hunk 6]
```diff
@@ -28,140 +28,216 @@ universe u₁ u₂ u₃ u₄
...
+
+instance charP : CharP (Perfection R p) p :=
+  CharP.subsemiring _ _ (subsemiring R p)
```
Comment (pechersky) [inline Mathlib/RingTheory/Perfection.lean]: Do these really require `Fact p.Prime`?

File: Mathlib/RingTheory/Perfection.lean [hunk 7]
```diff
@@ -28,140 +28,216 @@ universe u₁ u₂ u₃ u₄
...
+
+/-- The `n`-th coefficient of an element of the perfection. -/
+def coeff (n : ℕ) : Perfection R p →+* R where
+  __ := coeffMonoidHom R p n
+  map_zero' := rfl
+  map_add' _ _ := rfl
```
Comment (pechersky) [inline Mathlib/RingTheory/Perfection.lean:201]: for ease of use, can you add the (possibly simp) rfl lemma of `coeff.toMonoidHom`?

File: Mathlib/RingTheory/Perfection.lean [hunk 8]
```diff
@@ -179,24 +255,45 @@ noncomputable def lift (R : Type u₁) [CommSemiring R] [CharP R p] [PerfectRing
...
+@[deprecated (since := "2025-10-28")]
+alias _root_.Ring.perfectionSubring := subring
+
+variable (R : Type*) [CommRing R] (p : ℕ) [hp : Fact p.Prime] [CharP R p]
+
+instance ring : Ring (Perfection R p) :=
+  (subring R p).toRing
+
+instance commRing : CommRing (Perfection R p) :=
+  (subring R p).toCommRing
```
Comment (pechersky) [inline Mathlib/RingTheory/Perfection.lean:370]: same comments as with subsemiring

File: Mathlib/FieldTheory/Perfect.lean (hunk 1 above)
Comment (kckennylau) [reply Mathlib/FieldTheory/Perfect.lean:48]: frobenius is a ring hom.

File: Mathlib/RingTheory/Perfection.lean (hunk 7 above)
Comment (kckennylau) [reply Mathlib/RingTheory/Perfection.lean:201]: I actually want `simp` to go the other way, which is coeffMonoidHom_eq_coeff.

File: Mathlib/RingTheory/Perfection.lean (hunk 2 above)
Comment (kckennylau) [reply Mathlib/RingTheory/Perfection.lean:73]: I think this is not part of the API, since it's later proved that it's a perfect monoid, so this map would later be `(powMulEquiv (Perfection M p) p).symm`

File: Mathlib/RingTheory/Perfection.lean (hunk 5 above)
Comment (kckennylau) [reply Mathlib/RingTheory/Perfection.lean]: Perfection is defined to be `{ f : ℕ → α // ∀ n, f (n + 1) ^ p = f n }` directly, so the subring cannot be inferred.

File: Mathlib/RingTheory/Perfection.lean (hunk 8 above)
Comment (kckennylau) [reply Mathlib/RingTheory/Perfection.lean:370]: same answer

File: Mathlib/RingTheory/Perfection.lean (hunk 6 above)
Comment (kckennylau) [reply Mathlib/RingTheory/Perfection.lean]: otherwise `{ f : ℕ → α // ∀ n, f (n + 1) ^ p = f n }` is not a subring, so Perfection is not a ring

File: Mathlib/RingTheory/Perfection.lean (hunk 4 above)
Comment (kckennylau) [reply Mathlib/RingTheory/Perfection.lean]: I think actually I prefer to remove these lemmas and fully double down on the PerfectRing api

File: Mathlib/RingTheory/Perfection.lean (hunk 7 above)
Comment (pechersky) [reply Mathlib/RingTheory/Perfection.lean:201]: That's in the fully applied situation. I'm talking about how the RingHom -> MonoidHom (un)bundling works

File: Mathlib/FieldTheory/Perfect.lean (hunk 1 above)
Comment (pechersky) [reply Mathlib/FieldTheory/Perfect.lean:48]: Ah, I was confused because I saw lemmas like [frobenius_add](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/CharP/Frobenius.html#frobenius_add) and _neg etc

File: Mathlib/RingTheory/Perfection.lean (hunk 3 above)
Comment (kckennylau) [reply Mathlib/RingTheory/Perfection.lean]: done

File: Mathlib/RingTheory/Perfection.lean (hunk 4 above)
Comment (kckennylau) [reply Mathlib/RingTheory/Perfection.lean]: I have done that

File: Mathlib/FieldTheory/Perfect.lean (hunk 1 above)
Comment (kckennylau) [reply Mathlib/FieldTheory/Perfect.lean:48]: remnants of Lean 3 perhaps 😃

File: Mathlib/RingTheory/Perfection.lean (hunk 7 above)
Comment (kckennylau) [reply Mathlib/RingTheory/Perfection.lean:201]: I can add the lemma but I don't know which direction should be simp yet.

**Review by pechersky — APPROVED** [review]

File: Mathlib/RingTheory/Perfection.lean [hunk 9]
```diff
@@ -28,140 +28,225 @@ universe u₁ u₂ u₃ u₄
...
-/-- The `p`-th root of an element of the perfection. -/
-def pthRoot : Ring.Perfection R p →+* Ring.Perfection R p where
-  toFun f := ⟨fun n => coeff R p (n + 1) f, fun _ => f.2 _⟩
-  map_one' := rfl
-  map_mul' _ _ := rfl
+theorem coeffMonoidHom_pthRootMonoidHom (f : Perfection M p) (n : ℕ) :
+    coeffMonoidHom M p n (pthRootMonoidHom M p f) = coeffMonoidHom M p (n + 1) f := rfl
+attribute [local simp] coeffMonoidHom_pthRootMonoidHom
+
+theorem coeffMonoidHom_pow_p (f : Perfection M p) (n : ℕ) :
```
Comment (jjdishere) [inline Mathlib/RingTheory/Perfection.lean:91]: Should we also add `@[simp]` to this lemma?

File: Mathlib/RingTheory/Perfection.lean [hunk 10]
```diff
@@ -28,140 +28,225 @@ universe u₁ u₂ u₃ u₄
...
+instance perfectRing : PerfectRing (Perfection M p) p where
+  bijective_frobenius := Function.bijective_iff_has_inverse.mpr
+    ⟨pthRootMonoidHom M p, fun x ↦ by ext; simp, fun x ↦ by ext; simp⟩
+
+@[simp]
+theorem pthRootMonoidHom_eq_powMulEquiv_symm :
+    pthRootMonoidHom M p = (powMulEquiv (Perfection M p) p).symm :=
+  MonoidHom.ext fun x ↦ (MulEquiv.eq_symm_apply _).mpr <| by ext; simp
+
+theorem coeffMonoidHom_pow_p_pow (f : Perfection M p) (m n : ℕ) :
```
Comment (jjdishere) [inline Mathlib/RingTheory/Perfection.lean:125]: Can we tag this lemma with `@[simp]`, and the same for the following two lemmas?

File: Mathlib/RingTheory/Perfection.lean (hunk 9 above)
Comment (jjdishere) [reply Mathlib/RingTheory/Perfection.lean:91]: Similar for the theorem `coeff_pow_p`

File: Mathlib/RingTheory/Perfection.lean (hunk 10 above)
Comment (jjdishere) [reply Mathlib/RingTheory/Perfection.lean:125]: Similar for `coeff_frobenius`, `coeff_pow_p`, ...

**Comment by jjdishere** [comment]
Except for the minor simp tags issue, LGTM! Thank you for this work!

File: Mathlib/RingTheory/Perfection.lean (hunk 10 above)
Comment (kckennylau) [reply Mathlib/RingTheory/Perfection.lean:125]: Those might have been intentionally left out? I'm not sure if we should always activate that simp lemma.

File: Mathlib/RingTheory/Perfection.lean (hunk 9 above)
Comment (kckennylau) [reply Mathlib/RingTheory/Perfection.lean:91]: the LHS is not in simp normal form because of map_pow, and the subsequent lemma here is already tagged with simp.

Comment (jjdishere) [reply Mathlib/RingTheory/Perfection.lean:91]: Thank you.

File: Mathlib/RingTheory/Perfection.lean (hunk 10 above)
Comment (jjdishere) [reply Mathlib/RingTheory/Perfection.lean:125]: I don't think they are intentionally left blank. But anyway, we can postpone this to the future when people do need these lemmas as simp lemmas.

**Review by jjdishere — APPROVED** [review]

File: Mathlib/RingTheory/Perfection.lean [hunk 11]
```diff
@@ -32,157 +32,262 @@ universe u₁ u₂ u₃ u₄
...
+def pthRootMonoidHom : Perfection M p →* Perfection M p where
+  toFun f := ⟨fun n => coeffMonoidHom M p (n + 1) f, fun _ => f.2 _⟩
+  map_one' := rfl
+  map_mul' _ _ := rfl
 
-@[ext]
-theorem ext {f g : Ring.Perfection R p} (h : ∀ n, coeff R p n f = coeff R p n g) : f = g :=
+variable {M p}
+
+@[ext low]
```
Comment (kbuzzard) [inline Mathlib/RingTheory/Perfection.lean:78]: Add a comment explaining why this is `low`?

File: Mathlib/RingTheory/Perfection.lean [hunk 12]
```diff
@@ -32,157 +32,262 @@ universe u₁ u₂ u₃ u₄
...
+@[simp]
+theorem pthRootMonoidHom_eq_powMulEquiv_symm :
+    pthRootMonoidHom M p = (powMulEquiv (Perfection M p) p).symm :=
+  MonoidHom.ext fun x ↦ (MulEquiv.eq_symm_apply _).mpr <| by ext; simp
+
+theorem coe_pthRootMonoidHom_eq_powMulEquiv_symm :
+    ⇑(pthRootMonoidHom M p) = (powMulEquiv (Perfection M p) p).symm :=
+  congr($pthRootMonoidHom_eq_powMulEquiv_symm)
+
+set_option backward.isDefEq.respectTransparency false in
```
Comment (kbuzzard) [inline Mathlib/RingTheory/Perfection.lean]: No longer needed, it seems

File: Mathlib/RingTheory/Perfection.lean [hunk 13]
```diff
@@ -32,157 +32,262 @@ universe u₁ u₂ u₃ u₄
...
+@[simp] theorem coeffMonoidHom_symm_powMulEquiv (f : Perfection M p) (n : ℕ) :
+    coeffMonoidHom M p n ((powMulEquiv _ p).symm f) = coeffMonoidHom M p (n + 1) f := by
+  rw [← coe_pthRootMonoidHom_eq_powMulEquiv_symm]; rfl
+
+set_option backward.isDefEq.respectTransparency false in
```
Comment (kbuzzard) [inline Mathlib/RingTheory/Perfection.lean]: (and this)

File: Mathlib/RingTheory/Perfection.lean [hunk 14]
```diff
@@ -32,157 +32,262 @@ universe u₁ u₂ u₃ u₄
...
+
+theorem coeffMonoidHom_iterate_powMonoidHom' (f : Perfection M p) (n m : ℕ) (hmn : m ≤ n) :
+    coeffMonoidHom M p n ((powMonoidHom p)^[m] f) = coeffMonoidHom M p (n - m) f := by
+  rw [← coeffMonoidHom_iterate_powMonoidHom f (n - m) m, Nat.sub_add_cancel hmn]
+
+/-- Given monoids `M` and `N`, with `M` being perfect,
+any homomorphism `M →+* N` can be lifted uniquely to a homomorphism `M →* Perfection N p`. -/
+@[simps]
+noncomputable def liftMonoidHom (p : ℕ) (M : Type*) [CommMonoid M] [PerfectRing M p]
+    (N : Type*) [CommMonoid N] : (M →* N) ≃ (M →* Perfection N p) where
```
Comment (kbuzzard) [inline Mathlib/RingTheory/Perfection.lean]: Could be a MulEquiv

File: Mathlib/RingTheory/Perfection.lean (hunk 11 above)
Comment (kckennylau) [reply Mathlib/RingTheory/Perfection.lean:78]: done

File: Mathlib/RingTheory/Perfection.lean (hunk 12 above)
Comment (kckennylau) [reply Mathlib/RingTheory/Perfection.lean]: done

File: Mathlib/RingTheory/Perfection.lean (hunk 13 above)
Comment (kckennylau) [reply Mathlib/RingTheory/Perfection.lean]: done

File: Mathlib/RingTheory/Perfection.lean (hunk 14 above)
Comment (kckennylau) [reply Mathlib/RingTheory/Perfection.lean]: done
